US08648089B2
N-(3-(3-(4-methoxyphenyl)-1-(6-(methylamino)pyrimidin-4-yl)-1H-indol-6-yl)phenyl)-3-morpholino-5-(trifluoromethyl)benzamide
HATU (100 mg, 0.260 mmol) was added to a mixture solution of 3-morpholino-5-(trifluoromethyl)benzoate (54 mg, 0.195 mmol), 6-(6-(3-aminophenyl)-3-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine (55 mg, 0.130 mmol) and DIPEA (45 μL, 0.26 mmol) in THF (2 mL) at room temperature. 12 hours later, the mixture was added to saturated sodium bicarbonate aqueous solution and then extracted with methylene chloride. The collected organic layer was washed with brine and then concentrated under reduced pressure by drying with anhydrous magnesium sulfate. The residue was purified by chromatography (preparative HPLC). The target compound was obtained as yellow solid.

reactant | HATU | 0.260 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-morpholino-5-(trifluoromethyl)benzoate | 0.195 mmol, 54 mg | O1CCN(CC1)C=1C=C(C(=O)[O-])C=C(C1)C(F)(F)F
reactant | 6-(6-(3-aminophenyl)-3-(4-methoxyphenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | 0.130 mmol, 55 mg | NC=1C=C(C=CC1)C1=CC=C2C(=CN(C2=C1)C1=CC(=NC=N1)NC)C1=CC=C(C=C1)OC | C26H23N5O
reactant | DIPEA | 0.26 mmol, 45 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(3-(3-(4-methoxyphenyl)-1-(6-(methylamino)pyrimidin-4-yl)-1H-indol-6-yl)phenyl)-3-morpholino-5-(trifluoromethyl)benzamide | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C=1C=C(C=CC1)NC(C1=CC(=CC(=C1)C(F)(F)F)N1CCOCC1)=O)C1=NC=NC(=C1)NC | C38H33F3N6O3
